data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)CC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CF)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(N(C)C(=O)C2=CCCC2)c(Br)cc1Cl.[Pd]", "products": "Cc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1Cl"}, {"reactants": "Cc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1Cl", "products": "Cc1cc2c(cc1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc2c(cc1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc2c(cc1Cl)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1ccc(Br)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1ccc(Br)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1ccc(Br)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(Br)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(Br)cc21", "products": "CN1C(=O)C2(C=CCC2)c2ccc(Br)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C", "products": "COc1c2c(c(F)c([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1c(C)cccc1C(=O)C1C2CCC1C2", "products": "COc1c(C)cccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1c(C)cccc1[C]([O])C1C2CCC1C2", "products": "COc1c(C)cccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1c(C)cccc1C([O])=CC1C[CH]CC1", "products": "COc1c(C)cccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1c(C)cccc1C(O)=CC1C=CCC1", "products": "COc1c(C)cccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(C)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cc(C)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cc(C)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(OC)c1", "products": "COc1cc(C)cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)CF)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)CF)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)CF)cc1=C", "products": "COC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CF)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cc(F)cc(Cl)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)cc(Cl)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)cc(Cl)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cc(F)cc(Cl)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cc(F)cc(Cl)c1)C2(C)C", "products": "C[C+]1C2(c3cc(F)cc(Cl)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cc(F)cc(Cl)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cc(F)cc(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)cc(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(F)cc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)cc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cc(F)cc(Cl)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cc(F)cc(Cl)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cc(F)cc(Cl)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cc(F)cc(Cl)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cc(F)cc(Cl)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2C(C(C)C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CCC1(C(C)C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(C(C)C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CCC1(C(C)C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CCC1(C(C)C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CCC1(C(C)C)CC(C(=O)OC)C(=O)C2"}]}
